US05017576
4-{[2-(4-Nitrophenyl)-5-trifluoromethyl-4-quinolyl]oxyacetyl}morpholine (6.6 g) dissolved in methanol (=b 132 cc) is hydrogenated for three hours thirty minutes at atmospheric pressure in the presence of an 8N solution (6.6 cc) of gaseous hydrochloric acid in isopropanol and palladium (0.66 g) supported on charcoal (10% palladium). Distilled water (240 cc) is then added, the mixture is stirred for 10 minutes and the catalyst is thereafter filtered off. Normal aqueous sodium hydroxide solution (45 cc) is added an the precipitate is filtered off, washed with distilled water (3×100 cc) and dried under reduced pressure. The precipitate is dissolved while hot in a cyclohexane/ethyl acetate mixture (50:50 by volume). The solution is filtered and the filtrate is concentrated under reduced pressure. The residue is taken up on petroleum ether, filtered off and dried. 4-{[2-(4-Aminophenyl)-5-trifluoromethyl-4-quinolyl]oxyacetyl}morpholine (3.16 g,), m.p. 174° C., is thereby obtained.

reactant | 4-{[2-(4-Nitrophenyl)-5-trifluoromethyl-4-quinolyl]oxyacetyl}morpholine | 6.6 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC2=CC=CC(=C2C(=C1)OCC(=O)N1CCOCC1)C(F)(F)F | C22H18F3N3O5
reactant | hydrochloric acid | Cl | ClH
reactant | water | 240 cc | O | H2O
solvent | methanol | 132 cc | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | palladium | 0.66 g | [Pd] | Pd
product | 4-{[2-(4-Aminophenyl)-5-trifluoromethyl-4-quinolyl]oxyacetyl}morpholine | 3.16 g | NC1=CC=C(C=C1)C1=NC2=CC=CC(=C2C(=C1)OCC(=O)N1CCOCC1)C(F)(F)F | C22H20F3N3O3
